US09399646B2
Step 1: tert-Butyl 7-fluoro-5-iodo-1H-indole-1-carboxylate
A solution of 7-fluoro-5-iodo-1H-indole (651 mg, 2.49 mmol), DMAP (31 mg, 0.25 mmol), and di-tert-butyl dicarbonate (655 mg, 3.00 mmol) in dichloromethane (5.0 mL) was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane (50 mL), washed (2×25 mL saturated NaHCO3 and 25 mL brine), dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by silica gel chromatography to yield the title compound as white solid (780 mg, 86%). 1H NMR (300 MHz, DMSO-d6): δ 7.85 (d, 1H), 7.73 (d, 1H), 7.47 (dd, 1H), 6.73 (dd, 1H), 1.59 (s, 9H).

reactant | 7-fluoro-5-iodo-1H-indole | 2.49 mmol, 651 mg | FC=1C=C(C=C2C=CNC12)I | C8H5FIN
reactant | di-tert-butyl dicarbonate | 3.00 mmol, 655 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.25 mmol, 31 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-Butyl 7-fluoro-5-iodo-1H-indole-1-carboxylate | 780 mg, 86% | FC=1C=C(C=C2C=CN(C12)C(=O)OC(C)(C)C)I | C13H13FINO2
